US08084442B2
((S)-1-benzylpyrrolidin-3-yl)-phenylamine was synthesized using (S)-1-benzylpyrrolidin-3-ylamine and bromobenzene in the same manner as in Reference Example 3.

reactant | (S)-1-benzylpyrrolidin-3-ylamine | C(C1=CC=CC=C1)N1C[C@H](CC1)N | C11H16N2
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
product | ((S)-1-benzylpyrrolidin-3-yl)-phenylamine | C(C1=CC=CC=C1)N1C[C@H](CC1)NC1=CC=CC=C1 | C17H20N2
